US07932272B2
C-(5-Phenoxy thiophen-2-yl)methylamine
To a solution of 5-phenoxythiophene-2-carbonitrile described in Preparation Example 25 (1.4 g, 7.0 mmol) in tetrahydrofuran (30 mL) was added lithium aluminum hydride (1.1 g, 28 mmol), and the solution was stirred at room temperature for 25 minutes. Water and ethyl acetate were added to the reaction solution, this mixed solution was filtered through Celite pad, furthermore, the organic layer was partitioned. The solvent was evaporated in vacuo, and the title compound (1.29 g, 6.3 mmol, 89.9%) was obtained as a brown oil.

reactant | 5-phenoxythiophene-2-carbonitrile | O(C1=CC=CC=C1)C1=CC=C(S1)C#N | C11H7NOS
reactant | lithium aluminum hydride | 28 mmol, 1.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | C-(5-Phenoxy thiophen-2-yl)methylamine | 6.3 mmol, 1.29 g, 89.9% | O(C1=CC=CC=C1)C1=CC=C(S1)CN | C11H11NOS
